US03953595
2-Acetonyloxy-5-chlorobenzoic Acid
To a solution of 5.16 g. (0.3 mole) of 5-chlorosalicylic acid in 60 ml. of ethanol and 40 ml. of water containing 1.2 g. (0.03 mole) of sodium hydroxide is added 2.8 g. (0.03 mole) of chloroacetone and the solution heated to reflux for 5 hours. The resulting solution is cooled in an ice bath and the precipitated product filtered, dried and recrystallized from ether, 800 mg., m.p. 90°-91° C.

reactant | 5-chlorosalicylic acid | 0.3 mole | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 0.03 mole | [OH-].[Na+]
reactant | chloroacetone | 0.03 mole | ClCC(C)=O | C3H5ClO
solvent | water | 1.2 g | O | H2O
product | 2-Acetonyloxy-5-chlorobenzoic Acid | C(C(=O)C)OC1=C(C(=O)O)C=C(C=C1)Cl | C10H9ClO4
